.subckt ib_cml CK CKB OQ OQB TAILA OI OIB VSS
XMA1 OIB OQ  nTA   VSS nfet_03v3 L=0.3u W=40u nf=1 m=1
XMA2 OI  OQB nTA   VSS nfet_03v3 L=0.3u W=40u nf=1 m=1
XMA3 OIB OI  nLA   VSS nfet_03v3 L=0.3u W=40u nf=1 m=1
XMA4 OI  OIB nLA   VSS nfet_03v3 L=0.3u W=40u nf=1 m=1
XMA5 nTA CK  TAILA VSS nfet_03v3 L=0.3u W=40u nf=1 m=1
XMA6 nLA CKB TAILA VSS nfet_03v3 L=0.3u W=40u nf=1 m=1
.ends ib_cml
